US04006245
A solution of 0.412 parts of sodium hydrogen carbonate in 20 parts of water was added to a suspension of 2.19 parts of 4-oxo-7-[7-(2-n-propyl phenoxy)heptyloxy]-4H-1-benzopyran-2-carboxylic acid in 30 parts of water and the mixture heated until a clear solution was obtained. The filtrate was freeze dried to furnish 2.19 parts of sodium 4-oxo-7-[7-(2-n-propyl phenoxy)heptyloxy]-4H-1-benzopyran-2-carboxylate.

reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | 4-oxo-7-[7-(2-n-propyl phenoxy)heptyloxy]-4H-1-benzopyran-2-carboxylic acid | O=C1C=C(OC2=C1C=CC(=C2)OCCCCCCCOC2=C(C=CC=C2)CCC)C(=O)O | C26H30O6
solvent | water | O | H2O
product | sodium 4-oxo-7-[7-(2-n-propyl phenoxy)heptyloxy]-4H-1-benzopyran-2-carboxylate | O=C1C=C(OC2=C1C=CC(=C2)OCCCCCCCOC2=C(C=CC=C2)CCC)C(=O)[O-].[Na+] | InChI=1S/C26H30O6.Na/c1-2-10-19-11-6-7-12-23(19)31-16-9-5-3-4-8-15-30-20-13-14-21-22(27)18-25(26(28)29)32-24(21)17-20;/h6-7,11-14,17-18H,2-5,8-10,15-16H2,1H3,(H,28,29);/q;+1/p-1
